US03959372
175 g (0.8 mol) of phenylglyoxylic acid hydrazide-2-acetylhydrazone were dissolved in 2 liters of ethanol and the solution was heated to boil under reflux for 12 hours. After cooling, the product which had precipitated was filtered off. The mother liquor was partially freed from the solvent; on cooling, a further precipitate was obtained, which was also filtered off and well washed with water. The combined precipitates were dried. 123 g (76% of theory) of 4-amino-3-methyl-6-phenyl-1,2,4-triazin-5-(4H)-one of melting point 160°-163°C. were obtained.

reactant | phenylglyoxylic acid hydrazide-2-acetylhydrazone | 0.8 mol, 175 g | C(C)(=O)NN=C(C(=O)NN)C1=CC=CC=C1 | C10H12N4O2
solvent | ethanol | 2 liters | C(C)O | C2H6O
product | 4-amino-3-methyl-6-phenyl-1,2,4-triazin-5-(4H)-one | 123 g, 76% | NN1C(=NN=C(C1=O)C1=CC=CC=C1)C | C10H10N4O
